US08455477B2
3-iodo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (25.0 mg, 0.071 mmol), 5-bromobenzeno[B]thiophene-2-boronic acid (19.0 mg, 0.074 mmol), tetrakis(triphenylphosphine)palladium (0) (8.2 mg, 7.1 μmol), and sodium carbonate (15.0 mg, 0.141 mmol) were suspended in Dioxane (900 μl)/Water (100 μl). The mixture was sparged with argon for 10 minutes, heated to 90° C. and stirred overnight. The reaction mixture was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to afford a tan solid that contained unidentified impurities. The residue was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate. The solution was filtered and concentrated under reduced pressure to afford 3-(5-bromo-1-benzothien-2-yl)-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine. 1H NMR (500 MHz, DMSO-d6) δ 8.70 (s, 1H); 8.33 (s, 1H); 8.27 (s, 1H); 8.06 (s, 1H); 8.03 (d, 1H); 7.88 (d, 1H); 7.64 (s, 1H); 7.41 (dd, 1H); 7.03 (s, 1H); 4.05 (s, 3H); 3.88 (s, 3H). LRMS (ESI) calculated for C20H1679BrN4OS [M+H]+, 439.0; found 438.9.

reactant | 3-iodo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 0.071 mmol, 25.0 mg | IC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C12H11IN4O
reactant | 5-bromobenzeno[B]thiophene-2-boronic acid | 0.074 mmol, 19.0 mg | BrC1=CC2=C(SC(=C2)B(O)O)C=C1 | C8H6BBrO2S
reactant | sodium carbonate | 0.141 mmol, 15.0 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 100 μl | O | H2O
solvent | Dioxane | 900 μl | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 7.1 μmol, 8.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(5-bromo-1-benzothien-2-yl)-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | BrC=1C=CC2=C(C=C(S2)C=2C=NN3C2C(=CC(=C3)C=3C=NN(C3)C)OC)C1 | C20H15BrN4OS
